Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Tachycardia, hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is an ___ w/ h/o ESRD on HD, Atrial fibrillation on 
coumadin, systolic CHF, PVD, hypothyroidism, and who presented 
from HD unit with afib with RVR 15 minutes into his HD session 
this morning. He was asymptomatic during episode but was 
transferred as HR failed to improve with fluids. He has several 
such admissions recently, the last being in ___. It is often 
in the setting of hyperkalemia and/or not taking his 
propranolol. He does not remember if he took propranolol today 
prior to his treatment.  
In the ED initial vitals were:T 97.6 BP 95/60 HR 95 RR 20 O2 
Sat: 100% on RA.. He received 5mg IV metoprolol x2 and 20mg po 
propranolol as well as insulin and dextrose for his hyperkalemia 
of 6.4. His BP is in the 90's where it often is, his HR has 
decreased from 160 to 90's. Renal was consulted for hyperkalemia 
and performed 2 additional hrs of HD without complications.
 
Past Medical History:
ESRD on HD ___, since ___, HTN/T2DM/Obstructive 
Nephropathy)
CHF ___: LVEF= ___ with chronic transudative pleural 
effusions)
AFib on warfarin, propanolol
HTN
NIDDM - controlled with weight loss
Neurogenic Bladder
Gout
PVD
Hypothyroidism
Cricopharyngeal dysphagia ___ neck fracture
Sleep Apnea on CPAP
Anemia of chronic disease ___ renal dysfunction
Autonomic dysfunction - previously on midodrine and 
fludrocortisone
Chronic osteomyelitis ___ diagnosed by bone fragment biospy 
now s/p vanco/ceftaz
Hypothyroidism
___ buttock hematoma (93)
Left arm radiocephalic AV fistula creation (___)
Superficialization of left arm AV fistula (___)
Repair of left arm arteriovenous fistula aneurysm (___)
Repair of LUE AVF aneurysm (___)
PleurX® pleural drainage tube (___)
 
Social History:
___
Family History:
His grandparents and father had hypertension and diabetes.
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals - 97.9 104/59 P86 RR22 100% RA  
GENERAL: comfortable, laying in bed eating  
HEENT: AT/NC, Pupils were round bilaterally though patient would 
fight when trying to open to assess with flashlight, anicteric 
sclera. MMM  
NECK: No appreciated JVD  
CARDIAC: Irregularly irregular, S1/S2, no appreciated murmurs, 
gallops, or rubs  
LUNG: Lungs CTAB anteriorly without wheezing or crackles 
appreciated.  
ABDOMEN: Overweight. Nondistended, +BS, nontender in all 
quadrants, no rebound/guarding  
EXTREMITIES: limited mobility of all extremities. Trace edema. 
Feet with plantar swelling and atrophy, distortion, 
onychomycosis, onychogryphosis 
PULSES: 1+ DPs bilaterally  
NEURO: cn ___ intact without any focal deficits

DISCHARGE PHYSICAL EXAM:
Vitals: T 98.2 (98.3) BP 111/62 (83/49-111/62) HR 95 (76-98) RR 
20 O2 94%RA Pain ___
GENERAL: comfortable, lying in bed eating
NECK: No appreciable JVD
CARDIAC: Irregularly irregular, S1/S2, soft aortic flow murmur, 
no gallops or rubs  
LUNG: Lungs CTAB anteriorly without wheezing or crackles 
appreciated
ABDOMEN: full but Nondistended, +BS, nontender in all quadrants, 
no rebound/guarding
EXTREMITIES:  limited mobility of all extremities. Trace edema. 
Feet with plantar swelling and atrophy, distortion, 
onychomycosis, onychogryphosis. Trace edema. 
PULSES: 1+ DPs bilaterally
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:00PM BLOOD WBC-11.4* RBC-3.18* Hgb-10.6* Hct-31.0* 
MCV-97 MCH-33.2* MCHC-34.1 RDW-16.2* Plt ___
___ 02:00PM BLOOD Neuts-76.0* Lymphs-9.8* Monos-8.4 
Eos-4.9* Baso-0.8
___ 02:00PM BLOOD ___ PTT-47.7* ___
___ 02:00PM BLOOD Glucose-109* UreaN-80* Creat-8.4*# Na-139 
K-6.4* Cl-105 HCO3-22 AnGap-18

PERTINENT LABS
==============
___ 06:35AM BLOOD TSH-7.2*

DISCHARGE LABS
==============
___ 12:15PM BLOOD WBC-7.1 RBC-2.80* Hgb-9.2* Hct-26.9* 
MCV-96 MCH-32.8* MCHC-34.2 RDW-16.1* Plt ___
___ 12:15PM BLOOD ___ PTT-44.7* ___
___ 12:15PM BLOOD Glucose-130* UreaN-46* Creat-6.0* Na-136 
K-4.5 Cl-98 HCO3-30 AnGap-13
___ 12:15PM BLOOD Calcium-9.3 Phos-4.3 Mg-2.1

RADIOLOGY
=========
___ 3:19 ___ CHEST (PORTABLE AP)   
FINDINGS:  
When compared to prior, given differences in technique, there 
has been no significant interval change. Low lung volumes are 
again seen with crowding of the bronchovascular markings. Right 
basilar opacity is likely in part due to atelectasis although 
underlying effusion is suspected. Left costophrenic angle is 
excluded from the field of view. The cardiac silhouette is 
accentuated by the low lung volumes.   
IMPRESSION:    
Low lung volumes. Right basilar opacity likely components of 
effusion and atelectasis as seen on prior. 
 
Brief Hospital Course:
SUMMARY: ___ with ESRD on HD, atrial fibrillation on warfarin, 
HFrEF, PVD, and hypothyroidism, presented from HD unit with 
hypotension secondary to afib with RVR.

# Atrial Fibrillation with RVR: Patient with recent 
hosptialization at ___ with similar presentation. Presume he 
missed his propanolol dose prior to HD. In the ED, his HR 
improved to ___ after metoprolol 5mg IV x2 and propranolol 20mg 
PO. He continued to have HRs in ___ with intermittent reads 
to 130s and BP in high ___ and low ___. After uptitration of 
propranolol to 120mg XL daily and addition of midodrine 2.5mg 
BID, his HR improved to ___ with SBP 100s-110s. He was 
discharged on propranolol XL 120mg daily and midodrine 2.5mg 
BID.

# ESRD on HD: He had 2hr run on evening of ___ with 2hr session 
on ___ AM to control his acute hyperkalemia to 6 on presentation 
to ED. He resumed his regular TuThSa HD schedule with 
restoration of normal electrolytes and volume status.

TRANSITIONAL ISSUES
- ___ require additional rate control agent given the repeated 
episodes of afib with RVR
- Started Midodrine 2.5 mg BID this admission
- TSH was elevated, may require higher dose of levothyroxine
# CODE: Full
# CONTACT: ___ (___, wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO DAILY 
2. Propranolol LA 120 mg PO DAILY 
3. Warfarin 1 mg PO DAILY16 
4. Furosemide 80 mg PO 4X/WEEK (___) 
5. Cinacalcet 30 mg PO 3X/WEEK (___) 
6. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
7. Sucralfate 1 gm PO TID 
8. Levothyroxine Sodium 100 mcg PO DAILY 
9. Finasteride 5 mg PO DAILY 
10. Pantoprazole 40 mg PO Q12H 
11. Nephrocaps 1 CAP PO DAILY 

 
Discharge Medications:
1. Allopurinol 50 mg PO DAILY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
4. Warfarin 1 mg PO DAILY16 
5. Zolpidem Tartrate 5 mg PO QHS 
6. B complex with C#20-folic acid 1 mg oral daily 
7. Cinacalcet 30 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Sucralfate 1 gm PO TID 
11. Finasteride 5 mg PO DAILY 
12. Furosemide 80 mg PO 4X/WEEK (___) 
13. Midodrine 2.5 mg PO BID 
RX *midodrine 2.5 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
14. Propranolol LA 120 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Atrial Fibrillation with Rapid Ventricular Response, 
Hyperkalemia
SECONDARY: End-Stage Renal Disease on hemodialysis, Chronic 
Systolic and diastolic Congestive Heart Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Limited ambulation - requires assistance or aid 
(walker or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ ED after presenting here from HD 
for rapid heart rate and low blood pressure. In the ED, you were 
given metoprolol via IV and propranolol orally, which lowered 
your heart rate to the ___. We further controlled your blood 
pressure with additional propranolol and started you on 
propranolol XL 120mg daily. It is very important that you 
continue to take this medication every day at this dose. We are 
also starting you on a new medication called midodrine. It is to 
help you maintain your blood pressure. Please take 2.5mg twice a 
day until instructed otherwise by Dr. ___.

We also continued your dialysis sessions. Because you skipped 
your ___ session, we gave you a makeup session on ___ 
and resumed your schedule on ___. Please continue on your 
regular schedule.

Please let your doctor know if you have increased difficulty 
breathing, chest pain, or other concerning symptoms. It was a 
pleasure to take care of you!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___